US06872730B2
7-{2-[3-(2-Ethoxycarbonyl-ethyl)-benzo[b]thiophen-6-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester (338 mg, 0.66 mmol) was dissolved THF (5ml). Then a solution of sodium hydroxide (132 mg, 3.30 mmol) in water (1 ml) was added. The reaction was stirred at room temperature for 16 hours. After that period, the solvent was evaporated under vacuum and the crude was extracted with ethyl acetate and hydrochloric acid (1M). The organic layer was collected, dried with anhydrous sodium sulfated, filtrated and evaporated under vacuum to yield 268 mg (84%) of 7-{2-[3-(2-Carboxy-ethyl)-benzo[b]thiophen-6-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester. NMR 1H Cl3CD δ: 7.59 (d, 1H, J=8.8 Hz), 7.47 (d, 1H, J=7.7 Hz), 7.35 (d, 1H, J=2.3 Hz), 7.05 (d, 1H, J=7.6 Hz), 7.01 (s, 1H), 6.96 (dd, 1H, J=2.3, 8.8 Hz), 4.35 (t, 2H, J=6.5 Hz), 3.73 (m, 2H), 3.18 (m, 2H), 3.05 (m, 2H), 2.72 (m, 2H), 2.66 (m, 2H), 1.88 (m, 2H), 1.49 (s, 9H).

reactant | 7-{2-[3-(2-Ethoxycarbonyl-ethyl)-benzo[b]thiophen-6-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 0.66 mmol, 338 mg | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=CC2=C(SC=C2CCC(=O)OCC)C1 | C28H34N2O5S
reactant | THF | 5ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 3.30 mmol, 132 mg | [OH-].[Na+]
solvent | water | 1 ml | O | H2O
product | 7-{2-[3-(2-Carboxy-ethyl)-benzo[b]thiophen-6-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 268 mg, 84% | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=CC2=C(SC=C2CCC(=O)O)C1 | C26H30N2O5S
